US05859007
N-Isopropyl-N-(4-methoxy-phenyl)-2-(3-methyl-3-naphthalen-2-ylmethyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl) acetamide
To a stirring solution of 200 mg (0.34 mmol) of N-Isopropyl-N-(4-methoxy-phenyl)-2-(3-naphthalen-2-ylmethyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl) acetamide, prepared as in Example 36, in 5 mL of DMF at 0° C. is added 0.60 mL (0.60 mmol, 1.8 equiv) of a 1.0M solution of NaN(TMS)2 in THF. The resulting solution is stirred 5 min, and 37 μL (0.60 mmol, 1.8 equiv) of methyl iodide is added. The resulting solution is stirred 3 h at RT, warmed to 50° C. for 16 h, and then quenched with 5 mL of H2O. The reaction mixture is poured into 50 mL of Et2O and extracted with H2O (2×50 mL). The organic layer is separated, dried (MgSO4), and the solvents removed in vacuo. Purification of the material by silica gel MPLC on an Si60 column using hexane/EtOAc 5/2 as eluent followed by lyophilization in acetonitrile/H2O afforded 180 mg of the title compound as a white amorphous solid: 1H NMR (DMSO-d6, 300 MHz) δ7.88-7.79 (m, 3H), 7.64-7.19 (m, 14H), 7.05 (m, 2H), 6.92 (dd, 1H, J=1.0, 8.1), 4.87 (m, 1H), 4.30 (s, br, 2H), 3.80 (s, 3H), 2.76 (dd, 2H, J=13.9, 23.9), 1.22 (s, 3H), 1.00 (m, 6H); low resolution MS (FAB)m/e 612 (MH+), 611 (M+), 447.

reactant | N-Isopropyl-N-(4-methoxy-phenyl)-2-(3-naphthalen-2-ylmethyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl) acetamide | 0.34 mmol, 200 mg | C(C)(C)N(C(CN1C2=C(N(C(C(C1=O)CC1=CC3=CC=CC=C3C=C1)=O)C1=CC=CC=C1)C=CC=C2)=O)C2=CC=C(C=C2)OC | C38H35N3O4
reactant | NaN(TMS)2 | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | methyl iodide | 0.60 mmol, 37 μL, 1.8 equiv | CI | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | N-Isopropyl-N-(4-methoxy-phenyl)-2-(3-methyl-3-naphthalen-2-ylmethyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl) acetamide | 180 mg | C(C)(C)N(C(CN1C2=C(N(C(C(C1=O)(CC1=CC3=CC=CC=C3C=C1)C)=O)C1=CC=CC=C1)C=CC=C2)=O)C2=CC=C(C=C2)OC | C39H37N3O4
